US04618607
In 350 ml of isopropanol are dissolved 30.9 g of 1-(2-thienyl)-2-piperidinoethyl acetoacetate, 15.4 g of m-nitrobenzaldehyde and 11.7 g of methyl β-aminocrotonate, and the mixture is refluxed under heating for 20 hours. The reaction mixture is concentrated under reduced pressure and the residue is purified by column chromatography on silica gel (eluent:chloroform:methanol=10:1.2 (by volume)). The firstly eluted solution is concentrated and recrystallized from ethanol to give 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-methylester-5-[1-(2-thienyl)-2-piperidinoethyl]ester as crystals melting at 179° C.-181° C. This is α-diastereoisomer and the hydrochloride therefore melts at 215° C.-218° C. (decomposition). The lastly eluted solution is concentrated and recrystallized from ethanol as crystals melting at 128° C.-134° C. The hydrochloride thereof melts at 188° C.-190° C. (decomposition).

reactant | 1-(2-thienyl)-2-piperidinoethyl acetoacetate | 30.9 g | C(CC(=O)C)(=O)OC(CN1CCCCC1)C=1SC=CC1 | C15H21NO3S
reactant | m-nitrobenzaldehyde | 15.4 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl β-aminocrotonate | 11.7 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropanol | 350 ml | C(C)(C)O | C3H8O
product | 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-methylester-5-[1-(2-thienyl)-2-piperidinoethyl]ester | S1C(=CC=C1)C(CN1CCCCC1)OC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C27H31N3O6S
